US04443447
To a hot mixture of 20 ml of 97% formic acid and 10 ml of acetic anhydride was added 1.5 g of 8-(4-aminophenyl)-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo-[ij]quinolizine-2-carboxylic acid. The mixture was heated on a steam bath for 15 minutes and then evaporated. The residue was triturated with water to provide a solid. The solid was recrystallized from glacial acetic acid to provide 6,7-dihydro-8-(4-formamidophenyl)-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrate, m.p. >300° C. Analysis: Calculated for C21H18N2O4.1/3H2O: %C, 68.5; %H, 5.1; %N, 7.6; Found: %C, 68.8; %H, 5.2; %N, 7.6. The structural assignment was confirmed by infrared and nuclear magnetic resonance spectral analyses.

reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 8-(4-aminophenyl)-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo-[ij]quinolizine-2-carboxylic acid | 1.5 g | NC1=CC=C(C=C1)C1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C20H18N2O3
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | 6,7-dihydro-8-(4-formamidophenyl)-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrate | O.C(=O)NC1=CC=C(C=C1)C1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | InChI=1S/C21H18N2O4.H2O/c1-12-2-7-16-15(13-3-5-14(6-4-13)22-11-24)8-9-17-19(16)23(12)10-18(20(17)25)21(26)27;/h3-6,8-12H,2,7H2,1H3,(H,22,24)(H,26,27);1H2
